US05189042
Step C: 17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16tetraone
To a solution of 17-ethyl-20-fluoro-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16tetraone (10 mg) in acetonitrile (500 μl) is added a solution of 2% HF in aqueous acetonitrile (200 μl), and the mixture is stirred at room temperature. After 2.5 hours, the solution is diluted with ethyl acetate, extracted with saturated sodium bicarbonate solution and the organic phase dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel gives the title compound.

reactant | 17-ethyl-20-fluoro-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16tetraone | 10 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCOCC2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H92FNO13Si
solvent | acetonitrile | 500 μl | C(C)#N | C2H3N
solvent | acetonitrile | 200 μl | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCOCC2=CC=CC=C2)OC)C)C)O)=O | C52H78FNO13
